US06440995B1
(RS)-1-Amino-3-[2-(3,4-dihydro-1H-isoquinolin-2-yl)-quinolin-4-ylamino]-propan-2-ol hydrochloride
The title compound, m.p. 265-275° C., MS: m/e=348 (M+), was prepared from 4-chloro-2-(3,4-dihydro-1H-isoquinolin-2-yl)-quinoline and 1,3-diamino-2-propanol.

reactant | 4-chloro-2-(3,4-dihydro-1H-isoquinolin-2-yl)-quinoline | ClC1=CC(=NC2=CC=CC=C12)N1CC2=CC=CC=C2CC1 | C18H15ClN2
reactant | 1,3-diamino-2-propanol | NCC(CN)O | C3H10N2O
product | (RS)-1-Amino-3-[2-(3,4-dihydro-1H-isoquinolin-2-yl)-quinolin-4-ylamino]-propan-2-ol hydrochloride | Cl.NCC(CNC1=CC(=NC2=CC=CC=C12)N1CC2=CC=CC=C2CC1)O | InChI=1S/C21H24N4O.ClH/c22-12-17(26)13-23-20-11-21(24-19-8-4-3-7-18(19)20)25-10-9-15-5-1-2-6-16(15)14-25;/h1-8,11,17,26H,9-10,12-14,22H2,(H,23,24);1H
